US04361559
(D) 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one
To a solution of 11β-acetyloxy-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one (632 mg) in dry dichloromethane (20 ml) containing dry ethanethiol (0.6 ml) is added boron trifluoride etherate (0.25 ml). After one hour, the mixture is added to a NaHCO3 solution and extracted with chloroform. The chloroform solution is washed with water, dried (MgSO4 anhydrous), and evaporated to afford the title compound (620 mg) contaminated with a small amount of 11β-acetyloxy-9-fluoroandrosta-1,4-diene-3,17-dione. This material is used in the next step without further purification. A specimen crystallized from acetone-hexane shows melting point 140°-142° C. and a consistent nmr spectrum.

reactant | 11β-acetyloxy-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one | 632 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)SC)=O)C)F | C22H29FO3S
reactant | ethanethiol | 0.6 ml | C(C)S | C2H6S
reactant | boron trifluoride etherate | 0.25 ml | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one | 620 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SC)SCC)=O)C)F | C24H33FO3S2
